US08664401B2
Step F) (2R)-4-(3-Fluoro-2-oxo-4-phenylpyridin-1(2H)-yl)-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide
Pyrinium p-toluenesulfonate (20 mg, 0.080 mmol) was added to a solution of (2R)-4-(3-fluoro-2-oxo-4-phenylpyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (110 mg, 0.236 mmol) in ethanol (5 ml) and heated at reflux for 3 hours. The solution was cooled to RT, and upon cooling, a solid precipitated. The solid was collected via filtration and washed with ethanol (5 mL), heptane (10 mL), and ether (10 mL). The solid was dried under vacuum to afford the title compound as a yellow solid (38.4 mg, 42.6%). LC-MS m/z 383.0 (M+1). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.60 (s, 3H) 2.10-2.26 (m, 1H) 3.11 (s, 3H) 3.70-3.94 (m, 1H) 4.07-4.30 (m, 1H) 6.46 (t, J=6.93 Hz, 1H) 7.46-7.57 (m, 3H) 7.59-7.65 (m, 3H)

reactant | p-toluenesulfonate | 0.080 mmol, 20 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | (2R)-4-(3-fluoro-2-oxo-4-phenylpyridin-1(2H)-yl)-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.236 mmol, 110 mg | FC=1C(N(C=CC1C1=CC=CC=C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O | C22H27FN2O6S
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (2R)-4-(3-Fluoro-2-oxo-4-phenylpyridin-1(2H)-yl)-N-hydroxy-2-methyl-2-(methylsulfonyl)butanamide | 38.4 mg, 42.6% | FC=1C(N(C=CC1C1=CC=CC=C1)CC[C@](C(=O)NO)(S(=O)(=O)C)C)=O | C17H19FN2O5S
